US03950393
N-(2-Amino-3-bromo-5-methoxy-benzyl)-piperidine was prepared from N-(2-amino-5-methoxy-benzyl)-piperidine and bromine analogous to Example 9. Proof of structure by IR-, UV- and NMR-spectra. IR-spectrum (methylenechloride):

reactant | N-(2-amino-5-methoxy-benzyl)-piperidine | NC1=C(CN2CCCCC2)C=C(C=C1)OC | C13H20N2O
reactant | bromine | BrBr | Br2
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | N-(2-Amino-3-bromo-5-methoxy-benzyl)-piperidine | NC1=C(CN2CCCCC2)C=C(C=C1Br)OC | C13H19BrN2O
